US05843973
N-[Trans-4-(1-methyl-2-nitroxyethyl)cyclohexylmethyl]-(4R)-2-oxothiazolidin-4-yl-carboxamide (Exemplary Compound No. 1-1210)
91 mg of the desired-compound were obtained as a colorless oil using similar procedures to those in Example 3 by using 76.9 mg of (4R)-2-oxo-4-thiazolidinecarboxylic acid and 110 mg of trans-4-(1-methyl-2-nitroxyethyl)cyclohexylmethylamine hydrochloride.

reactant | (4R)-2-oxo-4-thiazolidinecarboxylic acid | 76.9 mg | O=C1SC[C@H](N1)C(=O)O | C4H5NO3S
reactant | trans-4-(1-methyl-2-nitroxyethyl)cyclohexylmethylamine hydrochloride | 110 mg | Cl.CC(CO[N+](=O)[O-])[C@@H]1CC[C@H](CC1)CN
product | N-[Trans-4-(1-methyl-2-nitroxyethyl)cyclohexylmethyl]-(4R)-2-oxothiazolidin-4-yl-carboxamide | CC(CO[N+](=O)[O-])[C@@H]1CC[C@H](CC1)CNC(=O)[C@H]1NC(SC1)=O | C14H23N3O5S
